US09078442B2
5. Preparation of N-tert-butyl-3-(3,5-dichlorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxamide (Example 6.117)
100 ml of CH2Cl2 and 70 mg of dimethylformamide were added to 5.00 g (18.2 mmol) of 3-(3,5-dichlorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxylic acid. At RT, 3.47 g (27.4 mmol) of oxalyl chloride were added slowly with stirring. After 30 min, the solution was concentrated and used without further purification (crude yield 5.50 g). 200 mg (0.68 mmol) of this crude product were taken up in 3 ml CH2Cl2 and added dropwise to a solution of 50 mg (0.68 mmol) of tert butylamine, 69 mg (0.68 mmol) of triethylamine and 10 mg of dimethylaminopyridine in 50 ml of CH2Cl2 at C. For work-up, the mixture was extracted with water, with saturated NaHCO3 solution and once more with water. Drying of the organic phases, filtration and removal of the solvent under reduced pressure gave the product.

reactant | 3-(3,5-dichlorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 18.2 mmol, 5.00 g | ClC=1C=C(C=C(C1)Cl)C1=NOC(C1)(C(=O)O)C | C11H9Cl2NO3
reactant | oxalyl chloride | 27.4 mmol, 3.47 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert butylamine | 0.68 mmol, 50 mg | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 0.68 mmol, 69 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 70 mg | CN(C=O)C | C3H7NO
product | N-tert-butyl-3-(3,5-dichlorophenyl)-5-methyl-4,5-dihydro-1,2-oxazole-5-carboxamide | C(C)(C)(C)NC(=O)C1(CC(=NO1)C1=CC(=CC(=C1)Cl)Cl)C | C15H18Cl2N2O2
